US04997878
Polymerization of N-1-Octylacrylamide-Acrylamide-DMA-N-Vinylpyrrolidinone
A solution was prepared of 3.0 g of sodium dodecylsulfate in 300 mL of deoxygenated water. N-1-octylacrylamide, 0.597 g, was dissolved in this solution folloW®d by 18.30 g of acrylamide, 19.38 g of DMA and 2I.73 g of N-vinylpyrrolidinone (NVP). The resulting solution was carefully transferred to a 1 L Morton style resin kettle fitted with a chilled water condenser, thermometer, inert gas sparger and mechanical stirrer. The temperature was adjusted to 25 C and polymerization was initiated by the addition of 0.108 g of 2,2'-azobis(N,N,--dimethylene-isobutyramidine) dihydrochloride. After stirring for 16 hr at 25°±0.2° C., a 250 mL portion of the viscous solution was added to 3 L of acetone. The precipitated polymer was then masticated in a Waring blender with methanol/acetone, filtered and dried under vacuum at 30° C. The yield of polymer was 55.53 g. Other examples of these polymers are given in Table III.

reactant | sodium dodecylsulfate | 3.0 g | C(CCCCCCCCCCC)OS(=O)(=O)[O-].[Na+]
reactant | N-1-octylacrylamide | C(CCCCCCC)NC(C=C)=O | C11H21NO
reactant | N-vinylpyrrolidinone | 73 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | water | 300 mL | O | H2O
solvent | acrylamide | 18.30 g | C(C=C)(=O)N | C3H5NO
solvent | methanol acetone | CO.CC(=O)C
solvent | acetone | 3 L | CC(=O)C | C3H6O
solvent | DMA | 19.38 g | CC(=O)N(C)C | C4H9NO
product | N-1-Octylacrylamide Acrylamide DMA N-Vinylpyrrolidinone | C(CCCCCCC)NC(C=C)=O.C(C=C)(=O)N.CC(=O)N(C)C.C(=C)N1C(CCC1)=O | InChI=1S/C11H21NO.C6H9NO.C4H9NO.C3H5NO/c1-3-5-6-7-8-9-10-12-11(13)4-2;1-2-7-5-3-4-6(7)8;1-4(6)5(2)3;1-2-3(4)5/h4H,2-3,5-10H2,1H3,(H,12,13);2H,1,3-5H2;1-3H3;2H,1H2,(H2,4,5)
